US07345049B2
Methyl 3-bromomethyl-2-nitrobenzoate (1.6 g) was dissolved in methanol (5 mL). Methanol solution (6 mL) of 2M dimethylamine was added thereto and stirred overnight. After removing the solvent, the residue was diluted with 1M hydrochloric acid and washed with ethyl acetate. The water layer was alkalized with sodium hydrate aqueous solution and extracted with ethyl acetate. The usual workup procedure was conducted to obtain methyl 3-dimethylaminomethyl-2-nitrobenzoate.

reactant | Methyl 3-bromomethyl-2-nitrobenzoate | 1.6 g | BrCC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H8BrNO4
reactant | dimethylamine | 2M | CNC | C2H7N
solvent | methanol | 5 mL | CO | CH4O
solvent | Methanol | 6 mL | CO | CH4O
product | methyl 3-dimethylaminomethyl-2-nitrobenzoate | CN(C)CC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C11H14N2O4
